US06118017
2a 3-Cyano-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclobutan-1-ol
To a solution of 3-cyano-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclobutan-1-one (8.63 g, 30.3 mmol) in tetrahydrofuran (200 mL) at -78° C. under an argon atmosphere was added over 75 min a slurry of lithium borohydride (1.98 g, 90.8 mmol) in tetrahydrofuran (200 mL). The reaction was stirred for 0.5 h, and was carefully poured into a 0° C. saturated solution of ammonium chloride. 10% Hydrochloric acid was used to adjust to pH 3-4, the mixture was warmed to room temperature, was diluted with water and was extracted with three portions of tert butyl methyl ether. The organic extract was dried (magnesium sulfate) and evaporated to provide crude product (8.96 g, 100%) as a pale green oil. 1H-NMR shows an isomer ratio of ~3:1 cis: trans.

reactant | 3-cyano-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclobutan-1-one | 30.3 mmol, 8.63 g | C(#N)C1(CC(C1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C17H19NO3
reactant | lithium borohydride | 90.8 mmol, 1.98 g | [BH4-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-Cyano-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclobutan-1-ol | 8.96 g, 100% | C(#N)C1(CC(C1)O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C17H21NO3
